US06949542B2
7-Methyl-4-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (87 mg, 0.3 mmol) and 3-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K42) (112 mg, 0.36 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (41 mg).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.3 mmol, 87 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.36 mmol, 112 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC=C1)C)=O | C18H20N2O3
product | 7-Methyl-4-[3-(2-methyl-pyrimidin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC(=NC=C2)C)=O)C=C1C(F)(F)F | C22H17F3N4O
